US06040433
Trifluoromethanesulfonic anhydride (1.8 mL, 10.8 mmol) is added at 0° C. to a solution of phenyl 6-deoxy-2-O-(4-methoxybenzyl)-1-thio-β-L-allopyranoside (β-14) (1.01 g, 2.69 mmol) and pyridine (2.2 mL, 26.9 mmol) in 30 mL of CH2Cl2. The solution is stirred at 0° C. for 1 h and allowed to warm at room temperature over 3 h. The reaction mixture is cooled to 0° C. before quenching with TEA (1.0 mL, 7.2 mmol). The reaction mixture is diluted with 30 mL of CH2Cl2, washed with saturated NaHCO3 (30 mL), 1N HCl (30 mL), dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography (8% EtOAc/petroleum ether) to give 1.36 g (79%) of phenyl 6-deoxy-3,4-di-O-(trifluoromethanesulfonyl)-2-O-(4-methoxybenzyl)-1-thio-β-L-allopyranoside (β-15): Rf 0.49 (20% EtOAc/petroleum ether); 1H NMR (CDCl3, 270 MHz) δ 7.48 (d, 2H, ArH), 7.33-7.21 (m, SH, ArH), 6.91 (d, 2H, ArH), 5.34 (t, J=2.0 Hz, 1H, H-3), 4.93 (d, J=9.2 Hz, 1H, H-1), 4.77 (d, J=11.2 Hz, 1H, CH2), 4.65 (d, J=11.2 Hz, 1H, CH2), 4.55 (dd, J=2.0, 8.8 Hz, 1H, H-4), 4.19-3.96 (m, 1H, H-5), 3.90 (s, 3H, OCH3), 3.47 (dd, J=2.0, 9.2 Hz, 1H, H-2), 1.36 (d, J=5.8 Hz, 3H, H-6).

reactant | Trifluoromethanesulfonic anhydride | 10.8 mmol, 1.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | phenyl 6-deoxy-2-O-(4-methoxybenzyl)-1-thio-β-L-allopyranoside | 2.69 mmol, 1.01 g | COC1=CC=C(CO[C@@H]2[C@@H](SC3=CC=CC=C3)O[C@H]([C@@H]([C@@H]2O)O)C)C=C1 | C20H24O5S
reactant | pyridine | 26.9 mmol, 2.2 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | phenyl 6-deoxy-3,4-di-O-(trifluoromethanesulfonyl)-2-O-(4-methoxybenzyl)-1-thio-β-L-allopyranoside | 1.36 g, 79% | FC(S(=O)(=O)O[C@@H]1[C@@H]([C@@H](SC2=CC=CC=C2)O[C@H]([C@@H]1OS(=O)(=O)C(F)(F)F)C)OCC1=CC=C(C=C1)OC)(F)F | C22H22F6O9S3
